US05700801
a) Benzyl 4-methoxycarbonylmethyloxy-phenyl-acetate
To a suspension of 8.4 g (0.035 Mol) of benzyl 4-hydroxyphenylacetate and 4.8 g (0.035 Mol) of dried potassium carbonate in 100 ml of dimethylformamide are added slowly, after 45 minutes stirring at ambient temperature, 5.3 g (0.038 Mol) of methylbromoacetate and the mixture is then heated to 80° C. for 5 minutes whilst stirring continues. It is then stirred overnight at ambient temperature. The solid matter is filtered off and the mother liquor is evaporated to dryness under reduced pressure. The residue is purified over a silica gel column, using methylene chloride as eluant. Yield: 7.9 g amorphous solid (72.9% of theory).

reactant | benzyl 4-hydroxyphenylacetate | 0.035 Mol, 8.4 g | OC1=CC=C(C=C1)CC(=O)OCC1=CC=CC=C1 | C15H14O3
reactant | potassium carbonate | 0.035 Mol, 4.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylbromoacetate | 0.038 Mol, 5.3 g | COC(CBr)=O | C3H5BrO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Benzyl 4-methoxycarbonylmethyloxy-phenyl-acetate | COC(=O)COC1=CC=C(C=C1)CC(=O)OCC1=CC=CC=C1 | C18H18O5
